US07985764B2
A 269 mg portion of methyl 1-benzyl-3-methylindoline-5-carboxylate was dissolved in 10 ml of tert-butyl methyl ether, and 235 mg of o-chloranil was added, followed by stirring at room temperature for 1 hour. After dilution with ethyl acetate and subsequent washing with a 1 M sodium hydroxide aqueous solution, it was dried over anhydrous sodium sulfate. After evaporation of the solvent, the residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:30 to 1:20 to 1:10) to obtain 433 mg of methyl 1-benzyl-3-methyl-1H-indole-5-carboxylate as a colorless solid.

reactant | methyl 1-benzyl-3-methylindoline-5-carboxylate | C(C1=CC=CC=C1)N1CC(C2=CC(=CC=C12)C(=O)OC)C | C18H19NO2
reactant | o-chloranil | 235 mg | C1(=C(C(=O)C(=O)C(=C1Cl)Cl)Cl)Cl | C6Cl4O2
solvent | tert-butyl methyl ether | 10 ml | COC(C)(C)C | C5H12O
product | methyl 1-benzyl-3-methyl-1H-indole-5-carboxylate | 433 mg | C(C1=CC=CC=C1)N1C=C(C2=CC(=CC=C12)C(=O)OC)C | C18H17NO2
